data/rdb19/train.csv
rxn,smiles,ea
5336,[C:17]([C:18]([C:19]([H:20])[H:21])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1](=[C:2]([C:3]1=[C:4]([H:12])[C:5]([H:13])[C:6]([H:14])([C:19]([C:18]([C:17]([H:28])([H:29])[H:30])([c:22]2[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]2[H:36])[H:31])([H:20])[H:21])[C:7]([H:15])=[C:8]1[H:16])[H:11])([H:9])[H:10],20.10615670500556
5017,[C:11]([C:12]([C:13]([H:14])[H:15])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3](=[C:4][H:10])[H:8])([H:5])([H:6])[H:7].[H:9][C:13]([C:12]([C:11]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:14])[H:15],27.23603211250156
5588,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:10])[H:9])([H:8])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:6])[H:7],17.575314067071304
2354,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[C:11]([H:16])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:10]([O:9][C:8]([H:12])([H:13])[H:14])([C:11]([H:16])[H:17])[H:15],43.12189783088979
3984,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43])([H:37])[H:38])([H:34])([H:35])[H:36]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[H:20])([H:13])[H:14])([H:10])([H:11])[H:12].[C:6](=[O:7])=[O:8].[C:9]([H:21])([H:22])([H:23])[C:26]([C:25]([C:24]([H:34])([H:35])[H:36])([H:37])[H:38])([H:27])[c:28]1[c:29]([H:39])[c:30]([H:40])[c:31]([H:41])[c:32]([H:42])[c:33]1[H:43],51.201241236994974
1431,[C:10]([C:11]([C:12]([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])([H:21])[H:22])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[C:14](=[O:15])[O:16][C:17]([H:26])([H:27])[H:28])[H:7])[H:6],13.88905211200472
1922,[C:11]([C:12]([C:13]([H:14])[H:15])([C:16](=[O:17])[N:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([C:16](=[O:17])[N:18]([H:23])[H:24])[H:22])([H:14])[H:15])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],24.39265093416907
4395,[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])([C:16]([H:17])[H:18])[C:19](=[O:20])[O:21][H:28])([H:22])([H:23])[H:24].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]=[O:5])([H:7])([H:8])[H:9].[O:6]([H:12])[C:16]([C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[C:19](=[O:20])[O:21][H:28])([H:17])[H:18],48.771397942560725
1790,[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:18]([C:16]([C:15]([H:21])([H:22])[H:23])=[C:17]([H:24])[H:25])([O:19])[O:20][H:26])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([C:16]=[C:17]([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:18](=[O:19])[O:20][H:26])([H:11])[H:12])([H:8])([H:9])[H:10],11.001155972655395
1371,[C:10]([C:11]([O:12][C:13](=[O:14])[C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:7][C:17]([C:15]([C:13]([O:12][C:11]([C:10]([H:20])([H:21])[H:22])([H:23])[H:24])=[O:14])([C:16]([H:26])([H:27])[H:28])[H:25])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]=[C:5]([H:8])[H:9])[H:6],24.304979851993263
5240,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32])([H:28])([H:29])[H:30]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])([H:12])([H:13])[H:14].[C:21]([H:28])([H:29])[H:30].[H:15][C:22]([C:23]([C:24]([H:34])([H:35])[H:36])([N:25]([C:26](=[O:27])[H:38])[H:37])[H:33])([H:31])[H:32],85.72579769371077
